US08859774B2
2-Methyl-[1,3,4]-oxadiazole (140 mg, 1.67 mmol) in dry tetrahydrofuran (5 mL) was cooled to −78° C. and butyl lithium (2.5 M solution in hexanes, 600 μL, 1.5 mmol) was added dropwise. The resultant reaction mixture was stirred for 10 minutes at −78° C. Magnesium bromide diethyl etherate (400 mg, 1.55 mmol) was added in one portion and the mixture was warmed to −45° C. over 1.5 hours where the temperature was maintained for 20 minutes. The reaction was re-cooled to −78° C. and a solution of (R)-1-(4-fluorophenyl)-6-((4-(trifluoromethyl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carbaldehyde (100 mg, 0.4 mmol) in dry tetrahydrofuran (5 mL) was added dropwise and the reaction mixture was stirred whilst allowing the reaction mixture to warm to −5° C. slowly. The reaction mixture was treated with saturated ammonium chloride solution (6 mL) and sufficient water to dissolve precipitated salts. The mixture was extracted with dichloromethane (3×10 mL) and the combined organic phases were dried over sodium sulfate. The solids were removed by filtration, the filtrate was concentrated under reduced pressure and the residue was purified by column chromatography on silica gel (gradient: 50-100% ethyl acetate in cyclohexane) to afford, as a (˜2:1) mixture of diastereoisomers, (R)-(1-(4-fluorophenyl)-6-((4-(trifluoromethyl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(5-methyl-1,3,4-oxadiazol-2-yl)-(R/S)-methanol as an off-white foam (50 mg). LCMS (Method A, ESI): RT 3.38 min, m+H=590.4; 1H NMR (400 MHz, CDCl3): δ 8.33 (s, 0.5 H); 7.96 (d, J=8.2 Hz, 2 H); 7.85-7.87 (m, 3 H); 7.42-7.43 (m, 1 H); 7.30 (s, 1 H); 7.20-7.21 (m, 2H); 7.12-7.13 (m, 2.5 H); 6.43 (s, 0.4 H); 6.18 (d, J=2.3 Hz, 1 H); 5.43 (d, J=4.4 Hz, 1 H); 4.99 (s, 0.4 H); 4.30-4.32 (m, 1 H); 3.68-3.75 (m, 1 H); 3.48 (d, J=16.7 Hz, 1 H); 3.29 (d, J=16.2 Hz, 0.4 H); 3.02-3.05 (m, 1 H); 2.57 (d, J=12.0 Hz, 3 H); 2.43-2.48 (m, 2 H); 2.35-2.37 (m, 2 H); 2.20 (s, 2 H).

reactant | 2-Methyl-[1,3,4]-oxadiazole | 1.67 mmol, 140 mg | CC=1OC=NN1 | C3H4N2O
reactant | butyl lithium | 1.5 mmol, 2.5 M, 600 μL | C(CCC)[Li]
reactant | Magnesium bromide diethyl etherate | 1.55 mmol, 400 mg | CCOCC.[Mg+2].[Br-].[Br-]
reactant | (R)-1-(4-fluorophenyl)-6-((4-(trifluoromethyl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carbaldehyde | 0.4 mmol, 100 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C=O)S(=O)(=O)C2=CC=C(C=C2)C(F)(F)F | C24H19F4N3O3S
reactant | ammonium chloride | 6 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (R)-(1-(4-fluorophenyl)-6-((4-(trifluoromethyl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(5-methyl-1,3,4-oxadiazol-2-yl)-(R/S)-methanol | 50 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(O)C=2OC(=NN2)C)S(=O)(=O)C2=CC=C(C=C2)C(F)(F)F | C27H23F4N5O4S
